US09023864B2
[7-(5-Phenoxymethyl-[1,2,3]triazol-1-yl)-6,7,8,9-tetrahydropyrido[1,2-α]indol-10-yl]-acetic acid
The title compound was prepared using procedures described in EXAMPLE 3 from propyl (7-azido-6,7,8,9-tetrahydropyrido[1,2-α]indol-10-yl)acetate and (prop-2-yn-1-yloxy)benzene. MS (+ESI) m/z: 403.1.

reactant | propyl (7-azido-6,7,8,9-tetrahydropyrido[1,2-α]indol-10-yl)acetate | N(=[N+]=[N-])C1CCC=2N(C3=CC=CC=C3C2CC(=O)OCCC)C1 | C17H20N4O2
reactant | (prop-2-yn-1-yloxy)benzene | C(C#C)OC1=CC=CC=C1 | C9H8O
product | [7-(5-Phenoxymethyl-[1,2,3]triazol-1-yl)-6,7,8,9-tetrahydropyrido[1,2-α]indol-10-yl]-acetic acid | O(C1=CC=CC=C1)CC1=CN=NN1C1CCC=2N(C3=CC=CC=C3C2CC(=O)O)C1 | C23H22N4O3
